US06201154B1
A solution of 4-fluorophenylacetylene (0.02 mol) and 4-fluorobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) was subjected to the General Procedure to form Z-4-fluorostyryl 4-fluorobenzylsulfide. The title compound was obtained in 78% yield following oxidation. 1HNMR (CDC13) δ 4.60 (2H, s), 6.65 (1H, d, JH,H=11.83), 7.20-7.65 (8H aromatic+1H ethylenic).

reactant | 4-fluorophenylacetylene | 0.02 mol | FC1=CC=C(C=C1)C#C | C8H5F
reactant | 4-fluorobenzyl mercaptan | 0.02 mol | FC1=CC=C(CS)C=C1 | C7H7FS
reactant | sodium | 0.02 g | [Na] | Na
product | Z-4-fluorostyryl 4-fluorobenzylsulfide | FC1=CC=C(\C=C/C(C2=CC=C(C=C2)F)SC(C2=CC=C(C=C2)F)\C=C/C2=CC=C(C=C2)F)C=C1 | C30H22F4S
